US07842810B2
3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carbaldehyde
6-Bromo-2-nitro-pyridin-3-ol. To a solution of 3-hydroxy-2-nitropyridine (20 g, 140 mmol) in CH3OH (400 mL) was added a solution of 25% NaOCH3 in CH3OH (33.0 mL, 153 mmol). After stirring at RT for 30 min, the reaction mixture was cooled to 0° C. and Br2 (7.2 mL, 140 mmol) added slowly. The mixture was stirred for 30 min, and then was quenched with glacial acetic acid (2.5 mL). The solvent was removed under reduced pressure. A portion of the crude material was purified on SiO2 (50% EtOAc/hexanes) to provide the title compound as a white solid. MS (ESI): exact mass calculated for C5H3BrN2O3, 217.93; m/z not found. 1H NMR (400 MHz, CDCl3): 10.24 (s, 1H), 7.74 (d, J=8.6, 1H), 7.54 (d, J=8.6, 1H).

reactant | 6-Bromo-2-nitro-pyridin-3-ol | BrC1=CC=C(C(=N1)[N+](=O)[O-])O | C5H3BrN2O3
reactant | 3-hydroxy-2-nitropyridine | 140 mmol, 20 g | OC=1C(=NC=CC1)[N+](=O)[O-] | C5H4N2O3
reactant | NaOCH3 | O([Na])C
reactant | Br2 | 140 mmol, 7.2 mL | BrBr | Br2
solvent | CH3OH | 400 mL | CO | CH4O
solvent | CH3OH | 153 mmol, 33.0 mL | CO | CH4O
product | 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carbaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
